US09339502B2
Step 4: 2-[4-(1-Methoxy-2-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-piperazin-1-yl]-ethanol:
1-Methoxy-2-nitro-5,7,8,9-tetrahydro-benzocyclohepten-6-one (15.09 g, 64.15 mmol) in methylene chloride (870 ml)treated with 2-Piperazin-1-yl-ethanol (3 eq) followed by acetic acid (10 eq). The mixture was stirred at 50° C. for 2 hrs and cooled to 0° C. and sodium triacetoxyborohydride (4 eq) was added, then warmed to RT and stirred. After a few hours starting material was still present. Added 0.4 eq further of sodium triacetoxyborohydride, then again after 6 hours. Stirred overnight. Poured into a solution of sat. aq. Sodium bicarbonate and ice and made basic to pH 10 with 1N sodium hydroxide, extracted 2× dichloromethane, dried MgSO4, filtered and concentrated. This material was taken up into ethanol and HCl ethanol was added. The resulting precipitate was triturated for 2 hours then filtered. The solid was free-based using NaOH followed by sodium bicarbonate and extracted into dichloromethane to give the title compound (19 g, 85% yield). 1H-NMR (400 MHz, CDCl3) 7.56 (d, J=8.2 Hz, 1H), 7.00 (d, J=8.2 Hz, 1H), 3.82 (s, 3H), 3.63-3.06 (m, 2H), 3.29-3.24 (m, 1H), 3.00-2.86 (m, 3H), 2.72-2.67 (m, 2H), 2.60-2.51 (m, 8H), 2.46-2.37 (m, 2H), 2.12-2.07 (m, 2H), 1.87-1.78 (m,1H), 1.37-1.29 (m, 1H). LC/MS (ESI+) m/z=350 (M+H)+

reactant | 1-Methoxy-2-nitro-5,7,8,9-tetrahydro-benzocyclohepten-6-one | 64.15 mmol, 15.09 g | COC1=C(C=CC2=C1CCCC(C2)=O)[N+](=O)[O-] | C12H13NO4
reactant | 2-Piperazin-1-yl-ethanol | 3 eq | N1(CCNCC1)CCO | C6H14N2O
reactant | acetic acid | 10 eq | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 4 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methylene chloride | 870 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(1-Methoxy-2-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-piperazin-1-yl]-ethanol | 19 g, 85% yield | COC1=C(C=CC2=C1CCCC(C2)N2CCN(CC2)CCO)[N+](=O)[O-] | C18H27N3O4
